US08426420B2
v) 4-{2-[(5-Hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
To a solution of 2.77 g of 1-phenyl-3-carboxy-5-pyrazolone and 3.3 g 4-(2-Amino-acetyl)-piperazine-1-carboxylic acid butyl ester in 70 ml DMF 2.7 g HOBT, 5.6 ml DIPEA and 3.4 g EDC were added and the reaction mixture was stirred for 12 h at RT. Then the reaction mixture was diluted with ethyl acetate and subsequently extracted with aqueous LiCl (4% w/w), 0.1 M HCl and aqueous NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The crude product thus obtained was used in the subsequent reaction. Yield: 5.3 g.

reactant | 1-phenyl-3-carboxy-5-pyrazolone | 2.77 g | C1(=CC=CC=C1)N1NC(=CC1=O)C(=O)O | C10H8N2O3
reactant | 4-(2-Amino-acetyl)-piperazine-1-carboxylic acid butyl ester | 3.3 g | C(CCC)OC(=O)N1CCN(CC1)C(CN)=O | C11H21N3O3
reactant | EDC | 3.4 g
solvent | DMF | 70 ml, 2.7 g | CN(C)C=O | C3H7NO
solvent | DIPEA | 5.6 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{2-[(5-Hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)O)C1=CC=CC=C1)=O | C21H27N5O5
